US04077982
b. preparation of 5-Benzyloxy-2-(3-methylphenyl)-1,3-dioxane
A slurry of sodium hydride (2.1 g. 0.08 mole in 100 ml of xylene and 100 ml of benzene was stirred at ambient temperature while 5-hydroxy-2-(3-methylphenyl)-1,3-dioxane (15.9 g, 0.08 mole) was added dropwise during 1 hour. Stirring was continued for one hour and to the mixture was added benzyl chloride (10.4 g, 0.08 mole) during 0.5 hour. This mixture was heated under reflux for 22 hours, cooled, filtered and the filtrate washed with water (2 × 250 ml). The washed solution was dried over magnesium sulfate and concentrated under reduced pressure to give 20.9 g of oil which distilled at 2 × 10-4 mm. to give three fractions distilling respectively at 102°-133° C (cut 1); 133°-141° C (cut 2); and 141° C (cut 3). Analysis of the various cuts indicated that cut 3 was essentially pure cis-5 -benzyloxy-2-(3-methylphenyl)-1,3-dioxane, 2.1 g, m.p. 68°-70° C and this cut was used in further studies.

reactant | sodium hydride | [H-].[Na+]
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | 5-hydroxy-2-(3-methylphenyl)-1,3-dioxane | 0.08 mole, 15.9 g | OC1COC(OC1)C1=CC(=CC=C1)C | C11H14O3
reactant | benzyl chloride | 0.08 mole, 10.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-Benzyloxy-2-(3-methylphenyl)-1,3-dioxane | 20.9 g | C(C1=CC=CC=C1)OC1COC(OC1)C1=CC(=CC=C1)C | C18H20O3
